US06787534B2
7-Amino-4-bromoisoquinoline
In 1 ml of ethanol, 2 ml of tetrahydrofuran and 1 ml of water was dissolved 66 mg (0.26 mmol) of 7-nitro-4-bromoisoquinoline, and 70 mg of powdered iron and 140 mg of ammonium chloride were added thereto, followed by heating at 50 degrees for 3 hours. To the reaction mixture was added 1 N sodium chloride aqueous solution, followed by extracting with chloroform. The organic layer was dried over magnesium sulfate and concentrated. Then, the resulting residue was crystallized from isopropyl ether, to give 33 mg of the title compound.

reactant | 7-nitro-4-bromoisoquinoline | 0.26 mmol, 66 mg | [N+](=O)([O-])C1=CC=C2C(=CN=CC2=C1)Br | C9H5BrN2O2
reactant | ammonium chloride | 140 mg | [Cl-].[NH4+]
reactant | sodium chloride | 1 N | [Cl-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | 1 ml | O | H2O
catalyst | iron | 70 mg | [Fe] | Fe
product | 7-Amino-4-bromoisoquinoline | 33 mg | NC1=CC=C2C(=CN=CC2=C1)Br | C9H7BrN2
